US06750232B2
5-Bromo-2-methoxypyridine
After sodium (10 g, 0.435 mol) was dissolved in methanol (500 ml), 2,5-dibromopyridine (50 g, 0.211 mol) was added thereto and the mixture was heated for 2 days under reflux. The reaction solution was cooled as it was, and then concentrated. Then, the residue was diluted with ethyl acetate and an aqueous saturated solution of ammonium chloride. The organic layer was washed with an aqueous saturated solution of ammonium chloride and brine, and then dried over anhydrous sodium sulfate and concentrated, to give the title compound (33 g, 83%) as a pale brown oil.

reactant | sodium | 0.435 mol, 10 g | [Na] | Na
reactant | 2,5-dibromopyridine | 0.211 mol, 50 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | methanol | 500 ml | CO | CH4O
product | 5-Bromo-2-methoxypyridine | 33 g, 83% | BrC=1C=CC(=NC1)OC | C6H6BrNO
